US07700633B2
To a stirring solution of 5-[6-hydroxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-pentanoic acid ethyl ester (0.003 g, 0.007 mmol) in iPrOH (1 mL) is added t-BuOK (1M in THF, 0.044 mL). The mixture is stirred for 18 h at room temperature. The reaction is quenched with 1 N HCl (1.5 mL) and extracted with EtOAc (3×10 mL). The organic layers are dried and concentrated. The residue is passed through a short column of reverse phase silica gel eluting with 40% MeOH/H2O to afford 5-[6-hydroxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-pentanoic acid isopropyl ester: Retention time=1.17 min (Method A); (M−H)−=419.

reactant | 5-[6-hydroxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-pentanoic acid ethyl ester | 0.007 mmol, 0.003 g | C(C)OC(CCCCC1=CC2=CC(=C(C=C2C=C1)O)N1S(NC(C1)=O)(=O)=O)=O | C19H22N2O6S
reactant | t-BuOK | 1M, 0.044 mL | CC(C)(C)[O-].[K+]
solvent | iPrOH | 1 mL | CC(C)O | C3H8O
product | 5-[6-hydroxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-pentanoic acid isopropyl ester | C(C)(C)OC(CCCCC1=CC2=CC(=C(C=C2C=C1)O)N1S(NC(C1)=O)(=O)=O)=O | C20H24N2O6S
